US07163936B2
A solution of lithium hexamethyldisilazide in THF (1M, 0.25 ml, 0.25 mmol) was added at 0–5° C. to a solution of allyl (2S)-4-(2-mercapto-1,3-thiazol-4-yl)-2-isopropyl-3,6-dihydro-1(2H)-pyridinecarboxylate (80 mg, 0.25 mmol) in THF (4.3 ml) and the mixture was stirred for 10 minutes. To the reaction solution was added at 0° C. a solution of allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate in acetonitrile (30%, 0.94 g, 0.50 mmol) and the solution was allowed to stand in a refrigerator for 12 hours. To the reaction solution was added ice water and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was dissolved in THF (5.65 ml) and thereto were added at 0° C. water and 1N hydrochloric acid to adjust pH about 3. The solution was stirred for 1 hour. To the reaction mixture was added an aqueous sodium hydrogen carbonate and the solution was extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and the solvent was removed in vacuo. The residue was dissolved in dichloromethane (5 ml). To the solution were added at 0° C. acetic acid (36 μl, 0.63 mmol) and tributyltin hydride (0.67 ml, 2.5 mmol) and then was added at room temperature bis(triphenylphosphine)palladium chloride(II) (17.5 mg, 0.025 mmol). The mixture was stirred at the same temperature for 10 minutes. The reaction mixture was poured into a mixture of ice (5 g) and phosphate buffer (pH7.0, 5 ml). After separation with a separating funnel, the organic layer was extracted twice with water. The organic solvent in the aqueous layer was removed in vacuo and was purified by polymer chromatography (CHP-20P). The fractions eluted with an 3–8% aqueous THF solution were combined and lyophilized to give (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-({4-[(6S)-6-isopropyl-1,2,5,6-tetrahydro-3-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (29.9 mg, 17%) as a white amorphous.

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | allyl (2S)-4-(2-mercapto-1,3-thiazol-4-yl)-2-isopropyl-3,6-dihydro-1(2H)-pyridinecarboxylate | 0.25 mmol, 80 mg | SC=1SC=C(N1)C=1C[C@H](N(CC1)C(=O)OCC=C)C(C)C | C15H20N2O2S2
reactant | allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | O(C1=CC=CC=C1)P(OC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C)OC1=CC=CC=C1 | C28H34NO7PSi
reactant | acetonitrile | 0.50 mmol, 0.94 g | C(C)#N | C2H3N
reactant | acetic acid | 0.63 mmol, 36 μl | C(C)(=O)O | C2H4O2
reactant | tributyltin hydride | 2.5 mmol, 0.67 ml | C(CCC)[SnH](CCCC)CCCC
reactant | phosphate | 5 ml, pH7.0 | P(=O)([O-])([O-])[O-]
reactant | THF | 4.3 ml | C1CCOC1 | C4H8O
reactant | THF | 0.25 mmol, 1M, 0.25 ml | C1CCOC1 | C4H8O
product | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-({4-[(6S)-6-isopropyl-1,2,5,6-tetrahydro-3-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 29.9 mg, 17% | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)SC=1SC=C(N1)C=1CN[C@@H](CC1)C(C)C)C | C21H27N3O4S2
